US05206235
Step A: 2-Benzyloxy-2-methyl-3-butene
To a stirred suspension of 18.6 g of 60% sodium hydride oil dispersion (0.46 mol) in 50 mL of dry tetrahydrofuran at 0° C. was added 40 g (0.46 mol) of 2-methyl-3-buten-2-ol over 30 minutes. The resulting mixture was warmed to room temperature and stirred for 3 hours, then heated at reflux for an additional 30 minutes. The mixture was cooled to 0° C., treated with 80 g (0.46 mol) of benzyl bromide, then heated at reflux for 5 hours. The reaction mixture was cooled, filtered and concentrated under vacuum. The residue was purified by distillation under reduced pressure to give 42 g (0.24 mol,52%) of product, b.p. 88°-89° C. (2 mm). 1H NMR (200 MHz, CDCl3): 1.38 (s,6H), 4.39 (s,2H), 5.20 (m,2H), 5.95 (m,1H), 7.2-7.4 (m,5H).

reactant | sodium hydride oil dispersion | 0.46 mol, 18.6 g | [H-].[Na+]
reactant | 2-methyl-3-buten-2-ol | 0.46 mol, 40 g | CC(C)(C=C)O | C5H10O
reactant | benzyl bromide | 0.46 mol, 80 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-Benzyloxy-2-methyl-3-butene | 0.24 mol, 42 g, 52% | C(C1=CC=CC=C1)OC(C)(C=C)C | C12H16O
